US07056930B2
N-[3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenyl]-methanesulfonamide
3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenylamine (3.37 g, 9.24 mmol) in pyridine (30 ml) at 0° C. was charged with methanesulfonylchloride 1.3 ml, 16.5 mmol) dropwise, causing a color change from yellow to bright orange. The reaction was warmed to room temperature and judged complete by TLC after 3 h. The mixture was diluted with toluene and stripped twice. Following a water quench (20 ml), the product was extracted with EtOAc (4×30 ml), washed with saturated aqueous NaHCO3 solution (6×30 ml) and with saturated aqueous NaCl solution (3×30 ml), dried over Na2SO4, filtered and concentrated to a crude orange liquid. Flash chromatography on silica gel eluting with 2 to 5% MeOH/CH2Cl2 provided the title compound as orange oil (3.59 g, 85%). (TLC 5% MeOH/CH2Cl2 Rf 0.24); 1H NMR (400 MHz, CDCl3) δ 7.37–7.19 (m, 7H), 7.11 (br d, J=7.9 Hz, 1H), 7.05 (ddd, J=7.9, 2.1, 0.8 Hz, 1H), 3.73 (AB q, ΔAB 59.9, J=13.3 Hz, 2H), 3.71 (m, 1H), 3.09 (br, s, 1H), 3.04 (m, 1H), 2.94 (s, 3H), 2.80 (m, 1H), 2.18 (m, 2H), 2.07–1.95 (m, 4H), 1.82 (br d, J=12.0 Hz, 1H), 1.72 (m, 1H), 1.57 (m, 1H), 1.17 (m, 1H). 13C 154.2, 137.1, 132.3, 129.5, 129.4, 129.1, 128.6, 128.4, 127.1, 122.0, 118.3, 117.9, 60.1, 52.3, 49.4, 39.3, 38.9, 38.7, 37.4, 35.8, 24.9, 23.0; APCI MS m/z 385.1 (M+1)+.

reactant | 3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenylamine | 9.24 mmol, 3.37 g | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C=CC2)N | C21H26N2
reactant | methanesulfonylchloride | 16.5 mmol, 1.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenyl]-methanesulfonamide | 3.59 g, 85% | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C=CC2)NS(=O)(=O)C | C22H28N2O2S
